US07335778B2
In 45 ml of dimethylsulfoxide was dissolved 20 g of (4R)-3-benzyl-4-hydroxymethylthiazolidin-2-one under room temperature, 1.45 ml of pyridine, 1.38 ml of trifluoroacetic acid, and 30 ml of ethyl acetate were added to the solution in this order. At 25° C., 22.2 g of dicyclohexylcarbodiimide and 15 ml of ethyl acetate were added to the above mixture, and the resulting mixture was stirred at 50° C. for 3 hours. To the reaction mixture was added 100 ml of ethyl acetate, the mixture was stirred at 10° C. or lower for 30 minutes, and precipitated product was filtered off. The filtrate was washed with brine (saturated brine:water=1:1), and the aqueous layer was further extracted with ethyl acetate. The organic layers were combined, washed with brine (saturated brine:water=1:1), dried, and concentrated to obtain (4R)-2-oxo-3-benzylthiazolidin-4-carbaldehyde.

reactant | (4R)-3-benzyl-4-hydroxymethylthiazolidin-2-one | 20 g | C(C1=CC=CC=C1)N1C(SC[C@H]1CO)=O | C11H13NO2S
reactant | pyridine | 1.45 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid | 1.38 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dicyclohexylcarbodiimide | 22.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylsulfoxide | 45 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (4R)-2-oxo-3-benzylthiazolidin-4-carbaldehyde | O=C1SC[C@H](N1CC1=CC=CC=C1)C=O | C11H11NO2S
